US08058299B2
A mixture of 2-bromo-5-nitro-pyridine (4.74 g, 23.3 mmol), methyl-piperidin-4-yl-carbamic acid tert-butyl ester (5 g, 23.3 mmol), and triethylamine (5 mL) in N,N-dimethylformamide (30 mL) was stirred at 90° C. for 14 h. Upon completion of the reaction, the reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was recrystallized from methanol and water to give methyl (5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-carbamic acid tert-butyl ester (6.7 g, 85.5%) as brown crystals. LCMS calcd for C16H24N4O4 (m/e) 336, obsd 337 (M+H).

reactant | 2-bromo-5-nitro-pyridine | 23.3 mmol, 4.74 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | methyl-piperidin-4-yl-carbamic acid tert-butyl ester | 23.3 mmol, 5 g | C(C)(C)(C)OC(N(C1CCNCC1)C)=O | C11H22N2O2
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl (5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-carbamic acid tert-butyl ester | 6.7 g, 85.5% | C(C)(C)(C)OC(N(C1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-])C)=O | C16H24N4O4
